US06974836B2
A cooled (−78° C.) solution of para-(trifluoromethoxy)aniline (3.2 mL, 24 mmol) in THF (200 mL) was charged with NaHMDS (53 mL of a 1.0 M THF solution) and stirred for 1 h. The mixture was then charged with a solution of di-(tert-butyl)dicarbonate (5.3 g, 24 mmol) in THF (40 mL) and stirred for 14 h, during which time it slowly warmed to RT. The reaction was concentrated in vacuo and the residue was dissolved in EtOAc. The organic phase was washed successively with 1N, water, and brine before being dried (Na2SO4), filtered, and concentrated in vacuo to provide N-Boc para-(trifluoromethoxy)aniline (6.2 g). The entirity of this product was dissolved in THF (112 mL), and the resultant solution was cooled to −78° C. before being charged with sec-butyllithium (38 mL of a 1.3 M solution). The solution was warmed to −40° C. and stirred at that temperature for 3 h. The reaction vessel was then evacuated and back-filled with carbon dioxide. The mixture was stirred for 14 h, during which time it slowly warmed to RT. The mixture was then treated with 1N HCl, stirred for 10 min, and extracted with EtOAc (2×). The organic extracts were washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified by flash chromatography to afford N-Boc 2-amino-3-(trifluoromethoxy)benzoic acid (3.4 g).

reactant | para-(trifluoromethoxy)aniline | 24 mmol, 3.2 mL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | di-(tert-butyl)dicarbonate | 24 mmol, 5.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M | C1CCOC1 | C4H8O
product | N-Boc para-(trifluoromethoxy)aniline | 6.2 g | C(=O)(OC(C)(C)C)NC1=CC=C(C=C1)OC(F)(F)F | C12H14F3NO3
